US07947738B2
(40-c) {(1S,5R,6R)-3-ethyl-6-[(methylamino)methyl]bicyclo[3.2.0]hept-3-en-6-yl}acetic acid hydrochloride
A 4 N hydrochloric acid-ethyl acetate (13 mL) was added to [(1S,5R,6R)-6-{[(tert-butoxycarbonyl)(methyl)amino]methyl}-3-ethylbicyclo[3.2.0]hept-3-en-6-yl]acetic acid (0.90 g, 2.78 mmol), and the mixture was stirred at room temperature for 1 hour. The mixture was concentrated under reduced pressure, and the obtained residue was recrystallized from hexane-isopropanol to obtain the compound of interest as a white solid (0.34 g, 47%).

reactant | hydrochloric acid ethyl acetate | 4 N, 13 mL | Cl.C(C)(=O)OCC
reactant | [(1S,5R,6R)-6-{[(tert-butoxycarbonyl)(methyl)amino]methyl}-3-ethylbicyclo[3.2.0]hept-3-en-6-yl]acetic acid | 2.78 mmol, 0.90 g | C(C)(C)(C)OC(=O)N(C)C[C@@]1([C@H]2C=C(C[C@H]2C1)CC)CC(=O)O | C18H29NO4
product | {(1S,5R,6R)-3-ethyl-6-[(methylamino)methyl]bicyclo[3.2.0]hept-3-en-6-yl}acetic acid hydrochloride | 0.34 g, 47% | Cl.C(C)C=1C[C@H]2C[C@@]([C@H]2C1)(CNC)CC(=O)O | InChI=1S/C13H21NO2.ClH/c1-3-9-4-10-6-13(8-14-2,7-12(15)16)11(10)5-9;/h5,10-11,14H,3-4,6-8H2,1-2H3,(H,15,16);1H/t10-,11-,13-;/m0./s1
